US07790756B2
Using a procedure analogous to Example A3, 3-amino-4-fluorophenol (0.127 g, 1.0 mmol) and 5-bromo-2-nitropyridine (0.203 g, 1.0 mmol) were combined to afford 2-fluoro-5-(6-nitropyridin-3-yloxy)benzenamine (0.098 g, 39% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.36 (d, J=2.8 Hz, 1H), 8.30 (d, J=8.8 Hz, 1H), 7.56 (dd, J=8.8, 2.8 Hz, 1H), 7.07 (m, 1H), 6.53 (dd, J=7.6, 3.2 Hz, 1H), 6.31 (s, 1H), 5.48 (s, 2H); MS (ESI) m/z: 250.0 (M+H+).

reactant | 3-amino-4-fluorophenol | 1.0 mmol, 0.127 g | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | 5-bromo-2-nitropyridine | 1.0 mmol, 0.203 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
product | 2-fluoro-5-(6-nitropyridin-3-yloxy)benzenamine | 0.098 g, 39% yield | FC1=C(C=C(C=C1)OC=1C=NC(=CC1)[N+](=O)[O-])N | C11H8FN3O3
